US05202321
Step 1: Methyl 3-(3-t-butylthio-5-methoxyindol-2-yl)-2,2-dimethylpropanoate
A solution of 22.7 g 1-(4-methoxyphenyl)hydrazine hydrochloride and 24.6 g methyl 5-t-butylthio-2,2-dimethyl-4-oxopentanoate in 500 mL of t-BuOH was heated at reflux under nitrogen for 24 hours. The solvent was removed under reduced pressure and the residue stirred in 900 mL ether. Filtration and evaporation of the Et2O provided an oil which was chromatographed (silica gel; 3% EtOAc in toluene) to provide the title compound as an oil.

reactant | 1-(4-methoxyphenyl)hydrazine hydrochloride | 22.7 g | Cl.COC1=CC=C(C=C1)NN
reactant | methyl 5-t-butylthio-2,2-dimethyl-4-oxopentanoate | 24.6 g | C(C)(C)(C)SCC(CC(C(=O)OC)(C)C)=O | C12H22O3S
solvent | t-BuOH | 500 mL | CC(C)(C)O | C4H10O
product | Methyl 3-(3-t-butylthio-5-methoxyindol-2-yl)-2,2-dimethylpropanoate | C(C)(C)(C)SC1=C(NC2=CC=C(C=C12)OC)CC(C(=O)OC)(C)C | C19H27NO3S
